US09315521B2
The title compound was prepared by following the procedure described for Example 55 from 1-methyl-1H-pyrazole-5-carbaldehyde to provide (1-methyl-1H-pyrazol-5-yl)methanol, which gave 5-(bromomethyl)-1-methyl-1H-pyrazole upon reaction with phosphorous tribromide. The reaction of 5-(bromomethyl)-1-methyl-1H-pyrazole and 6-methyl-2-sulfanylpyrimidin-4-ol provided 6-methyl-2-{[(1-methyl-1H-pyrazol-5-yl)methyl]sulfanyl}pyrimidin-4-ol as a white solid (0.742 g, 55% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.21 (s, 3H), 3.82 (s, 3H), 4.47 (s, 2H), 6.04 (bs, 1H), 6.23 (d, J=1.7 Hz, 1H), 7.29 (d, J=1.7 Hz, 1H), 8.19 (s, 1H); M+236.3.

reactant | phosphorous tribromide | P(Br)(Br)Br | Br3P
reactant | 5-(bromomethyl)-1-methyl-1H-pyrazole | BrCC1=CC=NN1C | C5H7BrN2
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | CC1=CC(=NC(=N1)S)O | C5H6N2OS
product | 6-methyl-2-{[(1-methyl-1H-pyrazol-5-yl)methyl]sulfanyl}pyrimidin-4-ol | 0.742 g, 55% yield | CC1=CC(=NC(=N1)SCC1=CC=NN1C)O | C10H12N4OS
